US07468380B2
Benzyl N-(3-(4-hydroxypiperidino)propyl)carbamate
Ethanol (100 ml) and hydrazine hydrate (1.5 g) were added to 2-(3-(4-hydroxypiperidino)propyl)isoindolin-1,3-dione (4.5 g); the reaction mixture was heated to reflux for 2.5 hours; and the produced crystals were filtered off. N-Methylmorpholine (2.5 ml) and N-(benzyloxycarbonyloxy)succinimide (5.2 g) were added to the filtrate; and the reaction mixture was stirred at room temperature overnight. Aqueous solution of sodium hydrogencarbonate was added to the reaction mixture; extraction was performed with ethyl acetate; and the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to yield the title compound (2.96 g).

reactant | hydrazine hydrate | 1.5 g | O.NN
reactant | 2-(3-(4-hydroxypiperidino)propyl)isoindolin-1,3-dione | 4.5 g | OC1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C16H20N2O3
reactant | Ethanol | 100 ml | C(C)O | C2H6O
product | Benzyl N-(3-(4-hydroxypiperidino)propyl)carbamate | 2.96 g | OC1CCN(CC1)CCCNC(OCC1=CC=CC=C1)=O | C16H24N2O3
